US20010053851A1
A solution of 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (716 mg, 2.0 mmol) and triethylamine (2 mL, 0.01 mmol) in N,N-dimethylformamide (2 mL) was treated with methyl propargyl ether (0.71 mL, 5.0 mmol). The resulting reaction mixture was degassed with argon and then treated with cooper iodide (10 mg, 0.05 mmol) and bis(triphenylphosphine)palladium (II) chloride (15 mg, 0.02 mmol). The reaction was then heated at 70° C. for 24 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The residue was diluted with ethyl acetate (40 mL) and washed with a half-saturated aqueous sodium chloride solution (1×20 mL). The resulting aqueous layer was back extracted with ethyl acetate (1×40 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 85/15 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-(3-methoxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester (503 mg, 83.8%) as an amber oil: EI-HRMS m/e calcd for C19H24O3 (M+) 300.1725, found 300.1728.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 2.0 mmol, 716 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | methyl propargyl ether | 5.0 mmol, 0.71 mL | C(C#C)OC | C4H6O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.02 mmol, 15 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | triethylamine | 0.01 mmol, 2 mL | C(C)N(CC)CC | C6H15N
catalyst | iodide | 0.05 mmol, 10 mg | [I-]
product | 3-cyclopentyl-2-[4-(3-methoxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester | 503 mg, 83.8% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CCOC)=O | C19H24O3
